US06143764
6,7-Dimethoxy-4-(3-hydroxyphenoxy)quinoline [5]
4-Chloro-6,7-dimethoxyquinoline (300 mg) and commercially available resorcinol monoacetate (0.835 ml) were mixed and stirred at 180° C. for 30 minutes. The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate and then partitioned between water and ethyl acetate, and the ethyl acetate layer was washed with brine and then dried with anhydrous sodium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was crystallized with chloroform to obtain 37 mg of the title compound (yield: 9%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 300 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | resorcinol monoacetate | 0.835 ml | C(C)(=O)OC1=CC(O)=CC=C1 | C8H8O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 6,7-Dimethoxy-4-(3-hydroxyphenoxy)quinoline | 37 mg, yield: 9% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=CC=C1)O | C17H15NO4
